US07179823B1
Sodium hydride (60%, oily, 2.11 g) was added to a mixture of ethyl diethylphosphonoacetate (10.5 ml) and tetrahydrofuran (150 ml) at 0° C., which was stirred at room temperature for 30 minutes. A solution of 1-(3,5-dibenzyloxybenzyl)-4-phenylpyrrole-3-carbaldehyde (22.7 g) in tetrahydrofuran (20 ml) was slowly added to the mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and ethyl (E)-3-[1-(3,5-dibenzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate (21.9 g, yield: 84%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 98–99° C.

reactant | Sodium hydride | 2.11 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 10.5 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 1-(3,5-dibenzyloxybenzyl)-4-phenylpyrrole-3-carbaldehyde | 22.7 g | C(C1=CC=CC=C1)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)C=O)C=C(C1)OCC1=CC=CC=C1 | C32H27NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl (E)-3-[1-(3,5-dibenzyloxybenzyl)-4-phenyl-3-pyrrolyl]propenoate | 21.9 g, yield: 84% | C(C1=CC=CC=C1)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)/C=C/C(=O)OCC)C=C(C1)OCC1=CC=CC=C1 | C36H33NO4
